US07709645B2
2-Isocyanato-5-[3-(2-methoxy-phenyl)-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridin-5-yl]-N,N-dimethyl-benzamide (125 mg, 0.22 mmol), N,N-diisopropylethylamine (0.06 mL, 0.34 mmol), 1-ethyl-pyrrolidin-3-ol (253 mg, 2.2 mmol), and methylene chloride (3 mL) were combined and stirred at room temperature for 18 hours. The reaction was concentrated to dryness in vacuo. The crude material was dissolved in a solution of tetrahydrofuran (4 mL) and methanol (1 mL). To the mixture was added 0.2 mL 50% w/v aqueous potassium hydroxide and the combined mixture stirred for 30 minutes. The reaction was quenched with saturated sodium bicarbonate, and the mixture was extracted with methylene chloride. The organic layer was dried over sodium sulfate and concentrated to dryness in vacuo. The crude material was purified by preparative HPLC to give 25 mg (47 μmol, 22%) of {2-dimethylcarbamoyl-4-[3-(2-methoxy-phenyl)-1H-pyrrolo[2,3-b]pyridin-5-yl]-phenyl}-carbamic acid 1-ethyl-pyrrolidin-3-yl ester. 1H-NMR (250 MHz, CDCl3) δ 11.93 (s, 1H), 9.10 (s, 1H), 8.64 (d, J=1.9 Hz, 1H), 8.16 (d, J=2.1 Hz, 1H), 7.75-7.54 (m, 5H), 7.30 (t, J=7.1 Hz, 1H), 7.13 (d, J=7.9 Hz, 1H), 7.05 (t, J=7.5 Hz, 1H), 5.10-5.02 (m, 1H), 3.82 (s, 3H), 2.97 (s, 3H), 2.93 (s, 3H), 2.77-2.24 (m, 7H), 1.80-1.72 (m, 1H), 1.03 (t, J=7.2 Hz, 3H); MS: m/z 528.3 (M+H+).

reactant | 2-Isocyanato-5-[3-(2-methoxy-phenyl)-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridin-5-yl]-N,N-dimethyl-benzamide | 0.22 mmol, 125 mg | N(=C=O)C1=C(C(=O)N(C)C)C=C(C=C1)C=1C=C2C(=NC1)N(C=C2C2=C(C=CC=C2)OC)S(=O)(=O)C2=CC=C(C=C2)C | C31H26N4O5S
reactant | N,N-diisopropylethylamine | 0.34 mmol, 0.06 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 1-ethyl-pyrrolidin-3-ol | 2.2 mmol, 253 mg | C(C)N1CC(CC1)O | C6H13NO
solvent | methylene chloride | 3 mL | C(Cl)Cl | CH2Cl2
product | {2-dimethylcarbamoyl-4-[3-(2-methoxy-phenyl)-1H-pyrrolo[2,3-b]pyridin-5-yl]-phenyl}-carbamic acid 1-ethyl-pyrrolidin-3-yl ester | 47 μmol, 25 mg, 22% | C(C)N1CC(CC1)OC(NC1=C(C=C(C=C1)C=1C=C2C(=NC1)NC=C2C2=C(C=CC=C2)OC)C(N(C)C)=O)=O | C30H33N5O4
